US06828330B2
2-Chloro-3-pyridinol (20.0 g, 0.154 mole), NaHCO3 (19.5 g, 0.232 mole, 1.5 equ), and 150 mL of water are placed in a flask. The flask is placed in an oil bath at 90° C., and after 5 minutes, 37% aqueous formaldehyde (40.5 mL, 0.541 mole, 3.5 equ) is added in six unequal doses in the following order: 12 mL, 3×8 mL, then 2.2 mL all at 90-minute intervals and then the final 2.3 mL after the reaction had stirred for 15 h at 90° C. The reaction is stirred at 90° C. for another 4 h and then is cooled by placing the flask in an ice bath. The pH of the reaction is then adjusted to 1 using 6N HCl. The reaction is stirred for 1.5 h in an ice bath allowing an undesired solid to form. The undesired solid is removed by filtration, and the filtrate is extracted seven times with EtOAc. The combined organic extracts are concentrated in vacuo, toluene is added to the flask and removed in vacuo to azeotrope water, and then CH2Cl2 is added and removed in vacuo to obtain 2-chloro-6-(hydroxymethyl)-3-pyridinol (C10) as a pale yellow solid (81% yield) sufficiently pure for subsequent reaction. MS (EI) for C6H6ClNO2, m/z: 159(M)+.

reactant | 2-Chloro-3-pyridinol | 0.154 mole, 20.0 g | ClC1=NC=CC=C1O | C5H4ClNO
reactant | NaHCO3 | 0.232 mole, 19.5 g | C(=O)(O)[O-].[Na+]
reactant | formaldehyde | 0.541 mole, 40.5 mL | C=O | CH2O
reactant | HCl | 6N | Cl | ClH
solvent | water | 150 mL | O | H2O
product | 2-chloro-6-(hydroxymethyl)-3-pyridinol | 81% yield | ClC1=NC(=CC=C1O)CO | C6H6ClNO2
